US08877782B2
6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N-(2-hydroxy-propyl)-nicotinamide
As described for example 346b, 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid (200 mg, 0.6 mmol) was converted, using (rac)-1-amino-2-propanol instead of ethanolamine, to the title compound (100 mg, 43%) which was obtained as a colourless gum. MS: m/e=388.1 [M+H]+.

reactant | 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid | 0.6 mmol, 200 mg | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C16H11ClN2O4
reactant | (rac)-1-amino-2-propanol | NCC(C)O | C3H9NO
product | 6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N-(2-hydroxy-propyl)-nicotinamide | 100 mg, 43% | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)NCC(C)O)C=C1 | C19H18ClN3O4
